US07368578B2
A mixture of pyridine-3-carbaldehyde (26.26 g), 2,3-butanedione-2-oxime (24.77 g) and 4N hydrogenchloride-ethyl acetate solution (300 mL) was stirred at room temperature for 3 days. The reaction mixture was concentrated, and the obtained crystals were washed with diethyl ether. To the crystals was added tetrahydrofuran (250 mL), and a solution of thionyl chloride (43.78 g) in tetrahydrofuran (50 mL) was further added. The mixture was heated under reflux for 3 hrs. The reaction mixture was concentrated and ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)pyridine as colorless crystals (9.48 g, 19%) from a fraction eluted with ethyl acetate-hexane (1:1, v/v). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 87-88° C.

reactant | pyridine-3-carbaldehyde | 26.26 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 2,3-butanedione-2-oxime | 24.77 g | CC(C(C)=O)=NO | C4H7NO2
reactant | hydrogenchloride ethyl acetate | 4N, 300 mL | Cl.C(C)(=O)OCC
product | 3-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)pyridine | 9.48 g, 19% | ClCC=1N=C(OC1C)C=1C=NC=CC1 | C10H9ClN2O
